US05254584
147.2 g (0.86 mole) of 3-chloro-5-methylbenzoic acid previously prepared were suspended in 250 ml of methanol and warmed up to 35° C. with stirring. To the resulting suspension were added slowly 113 g (0.95 mole) of thionyl chloride keeping the temperature below 60° C. (cooling by ice bath). When addition was completed, the resulting mixture was refluxed for 1 hour, then stirred and cooled down to room temperature. The solvent was removed in the rotovap and the residue poured into water. The resulting aqueous suspension was extracted with ethyl ether (2×750 ml). The combined organic extracts were washed with 2% aqueous sodium hydroxide (3×150 ml), followed by water (1×200 ml), and then brine (1×200 ml), dried over anhydrous sodium sulfate and then concentrated in the rotavap to give the expected Methyl-3-chloro-5-methylbenzoate (154.6 g, 97% purity), used as such in the next step.

reactant | 3-chloro-5-methylbenzoic acid | 0.86 mole, 147.2 g | ClC=1C=C(C(=O)O)C=C(C1)C | C8H7ClO2
reactant | thionyl chloride | 0.95 mole, 113 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 250 ml | CO | CH4O
product | Methyl-3-chloro-5-methylbenzoate | 154.6 g, 97% | COC(C1=CC(=CC(=C1)C)Cl)=O | C9H9ClO2
